US07399780B2
2-Hydroxy-3-{5-[(4-isopropylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile hydrochloride
The title compound was prepared as described for Example 82 using 5-cyanooxindole and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-isopropylpiperazine. Yield: 30% of the title compound as a yellow solid; 1H NMR (DMSO-d6, 400 MHz) δ 11.56 (br s, 1 H), 10.68 (br s, 1 H), 8.57 (br s, 1 H), 8.02 (s, 1 H), 7.93-7.81 (m, 1 H), 7.74 (dd, J=9, 2 Hz, 1 H), 7.42 (dd, J=8, 1 Hz, 1 H), 7.06 (d, J=8 Hz, 1 H) 3.82-3.71 (m, 2 H), 3.58-3.31 (m, 3 H), 3.24-1.82 (m, 4 H), 1.24 (d, J=7 Hz, 6 H); MS (ES) m/z 304 (M++1).

reactant | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-isopropylpiperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C(C)C | C12H18ClN3O2S
product | 2-Hydroxy-3-{5-[(4-isopropylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indole-5-carbonitrile hydrochloride | Yield: 30% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(C)C)C#N | InChI=1S/C21H23N5O3S.ClH/c1-14(2)25-7-9-26(10-8-25)30(28,29)16-4-6-19(23-13-16)20-17-11-15(12-22)3-5-18(17)24-21(20)27;/h3-6,11,13-14,24,27H,7-10H2,1-2H3;1H
